US09340538B2
(3S)-4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1.6 g, 3.37 mmol) was reacted with (S)-morpholine-3-carboxylic acid (0.44 g, 3.37 mmol) according to the procedure as described in Example 28 to give the title compound as a yellow solid (1.42 g, 80%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 3.37 mmol, 1.6 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C17H14BrCl2N3O2S
reactant | (S)-morpholine-3-carboxylic acid | 3.37 mmol, 0.44 g | N1[C@@H](COCC1)C(=O)O | C5H9NO3
product | (3S)-4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 1.42 g, 80% | ClC1=C(C=CC(=C1)Cl)C1C(=C(NC(=N1)C=1SC=CN1)CN1[C@@H](COCC1)C(=O)O)C(=O)OCC | C22H22Cl2N4O5S
